US05962458
1,1'-(azodicarbonyl)dipiperidine (1.68 g, 6 mmol) was added in portions to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (640 mg, 2 mmol), 4-hydroxymethyl-2-(dimethylamino)pyridine (426 mg, 2.8 mmol) and tributylphosphine (1.6 ml, 6 mmol) in methylene chloride (50 ml) at 0° C. The mixture was allowed to warm to ambient temperature over 2 hours, the insolubles were removed by filtration and the filtrate was washed with water and brine, dried (Na2SO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (100:0 increasing to 95:5). The purified product was dissolved in acetone/methanol and a 1M solution of ethereal hydrogen chloride was added. The resulting precipitate was collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-7-(2-(dimethylamino)pyrid4-yl)methoxy-6-methoxyquinazoline hydrochloride (305 mg, 30%). m.p. 290° C.

reactant | 1,1'-(azodicarbonyl)dipiperidine | 6 mmol, 1.68 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 2 mmol, 640 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 4-hydroxymethyl-2-(dimethylamino)pyridine | 2.8 mmol, 426 mg | OCC1=CC(=NC=C1)N(C)C | C8H12N2O
reactant | tributylphosphine | 6 mmol, 1.6 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-7-(2-(dimethylamino)pyrid4-yl)methoxy-6-methoxyquinazoline hydrochloride | 305 mg, 30% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC(=NC=C2)N(C)C)C=C1)F | InChI=1S/C23H21ClFN5O2.ClH/c1-30(2)22-8-14(6-7-26-22)12-32-21-11-19-16(10-20(21)31-3)23(28-13-27-19)29-18-5-4-15(24)9-17(18)25;/h4-11,13H,12H2,1-3H3,(H,27,28,29);1H
